US05419817
A flow cell reactor filled with a 100 cm2 platinum on titanium anode and a 100 cm2 stainless steel cathode--the two electrode compartment being divided by a Nafion® cation exchange membrane--is used. A solution of 5% H3PO4 is circulated through the cathode compartment, while a solution of anolyte consisting of the followings: H2O (2 liters), t-BuOH (2 liters), K3Fe(CN)6 (0.24 mole, 91 g), K2CO3 (4.8 mole, 662 g), the chiral ligand, PHAL-DHQD (0.012 mole, 9.3 g), OsO4 (0.2M in toluene, 0.0008 mole, 4 mL) and α-methylstyrene (1.6 mole, 189 g) is circulated through the anode compartment. A constant current of 3 A (current density 30 mA/cm2) is applied at 15° C. until almost all the α-methylstyrene is consumed (the reaction is followed by thin layer chromatography on silica gel). The product is isolated as described above (Example 6.1) to provide (R)-2-phenyl-1.2-propanediol in 95% yield and 90% ee.

reactant | H3PO4 | OP(=O)(O)O | H3O4P
reactant | H2O | 2 liters | O | H2O
reactant | K2CO3 | 4.8 mole, 662 g | C(=O)([O-])[O-].[K+].[K+]
reactant | α-methylstyrene | 1.6 mole, 189 g | CC(=C)C1=CC=CC=C1 | C9H10
catalyst | platinum | [Pt] | Pt
catalyst | OsO4 | 0.0008 mole, 0.2M, 4 mL | O=[Os](=O)(=O)=O
solvent | t-BuOH | 2 liters | CC(C)(C)O | C4H10O
product | (R)-2-phenyl-1.2-propanediol | 95% yield | C1(=CC=CC=C1)[C@@](CO)(C)O | C9H12O2
